US07319109B2
b) Methyl 4-{[(2-chloro-4-{[3-(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methoxy}phenyl)amino]carbonyl}benzoate.
A mixture of 2-chloro-4-{[3-(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methoxy}aniline (85 mg, 206 μmol), monomethyl terephthalate (37.2 mg, 206 μmol), 1-hydroxybenzotriazole (5.6 mg, 41 μmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (39.6 mg, 206 μmol) in dichloromethane (1 mL) was stirred at ambient temperature for 24 h. The reaction was partitioned with ethyl acetate and water. The organic layer was washed sequentially with saturated aqueous sodium hydrogensulfate and brine, then was dried over anhydrous sodium sulfate, filtered, and condensed to a residue which was chromatographed on silica gel eluting with 30% ethyl acetate/hexanes. Yield=65 mg, (55%) of methyl 4-{[(2-chloro-4-{[3-(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methoxy}phenyl)amino]carbonyl}-benzoate.

reactant | 2-chloro-4-{[3-(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methoxy}aniline | 206 μmol, 85 mg | ClC1=C(N)C=CC(=C1)OCC=1C(=NOC1C(C)C)C1=C(C=CC=C1Cl)Cl | C19H17Cl3N2O2
reactant | monomethyl terephthalate | 206 μmol, 37.2 mg | C(C1=CC=C(C(=O)[O-])C=C1)(=O)OC
reactant | 1-hydroxybenzotriazole | 41 μmol, 5.6 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 206 μmol, 39.6 mg | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | Methyl 4-{[(2-chloro-4-{[3-(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methoxy}phenyl)amino]carbonyl}benzoate | ClC1=C(C=CC(=C1)OCC=1C(=NOC1C(C)C)C1=C(C=CC=C1Cl)Cl)NC(=O)C1=CC=C(C(=O)OC)C=C1 | C28H23Cl3N2O5
